US07982071B2
Metallation of 1-bromo-3-(2-ethylbutoxy)benzene followed by addition to (R)-(−)-epichlorohydrin gave (S)-1-chloro-3-(3-(2-ethylbutoxy)phenyl)propan-2-ol. Yield (1.57 g, 60%): 1H NMR (400 MHz, DMSO-d6) δ 7.14 (t, J=7.8 Hz, 1H), 6.78-6.73 (m, 3H), 5.13 (d, J=5.2 Hz, 1H), 3.88-3.83 (m, 1H), 3.80 (d, J=6.0 Hz, 2H), 3.52 (dd, J=10.8, 4.6 Hz, 1H), 3.43 (dd, J=11.0, 5.8 Hz, 1H), 2.74 (dd, J=13.8, 5.0 Hz, 1H), 2.62 (dd, J=13.6, 7.6 Hz, 1H), 1.61-1.55 (m, 1H), 1.47-1.31 (m, 4H), 0.86 (t, J=7.2 Hz, 6H).

reactant | 1-bromo-3-(2-ethylbutoxy)benzene | BrC1=CC(=CC=C1)OCC(CC)CC | C12H17BrO
reactant | (R)-(−)-epichlorohydrin | C(Cl)[C@H]1CO1 | C3H5ClO
product | (S)-1-chloro-3-(3-(2-ethylbutoxy)phenyl)propan-2-ol | ClC[C@H](CC1=CC(=CC=C1)OCC(CC)CC)O | C15H23ClO2
